US08835420B2
Step A: 6-Bromo-1-methyl-1H-pyrrolo[3,2-b]pyridine
Sodium hydride (60%, 670 mg, 16.8 mmol) was added to a solution of 6-bromo-1H-pyrrolo[3,2-b]pyridine (3.00 g, 15.2 mmol) in DMF (20 mL) at 0° C., and the reaction mixture was stirred for 30 minutes. Iodomethane (1.05 mL, 16.8 mmol) was added. The reaction mixture was subsequently stirred for 30 minutes while warming to RT, diluted with EtOAc, quenched and washed with brine. The aqueous layer was extracted with EtOAc (2×) and the combined organic layers were dried over MgSO4, concentrated, and purified by silica gel chromatography (50% EtOAc/DCM) to give the title compound as a white solid (2.98 g, 93%). 1H NMR (500 MHz, DMSO-d6) δ ppm 8.38 (d, 1H, J=2.0 Hz), 8.21 (d, 1H, J=2.0 Hz), 7.65 (d, 1H, J=3.5 Hz), 6.57 (d, 1H, J=3.5 Hz), 3.81 (s, 3H); ESI-MS m/z [M+H]+ calc'd for C8H7BrN2, 211, 213; found 211, 213.

reactant | Sodium hydride | 16.8 mmol, 670 mg | [H-].[Na+]
reactant | 6-bromo-1H-pyrrolo[3,2-b]pyridine | 15.2 mmol, 3.00 g | BrC=1C=C2C(=NC1)C=CN2 | C7H5BrN2
reactant | Iodomethane | 16.8 mmol, 1.05 mL | IC | CH3I
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-Bromo-1-methyl-1H-pyrrolo[3,2-b]pyridine | 2.98 g, 93% | BrC=1C=C2C(=NC1)C=CN2C | C8H7BrN2
